US05141945
To a suspension of p-chlorophenylhydrazine hydrochloride (8.52 g) in toluene (100 ml) were added 2-methylcyclohexane-1,3-dione (5.0 g) and 40% sulfuric acid (40 ml), and the mixture was stirred at 80°-85° C. for 4 hours. After cooling, the organic layer was separated. The aqueous layer was extracted with toluene. The organic layers were combined and washed with aqueous sodium bicarbonate, water, and brine. After dried over sodium sulfate, the organic layer was evaporated. The residue was recrystallized from methanol to give 2-chloro-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one (4.63 g).

reactant | p-chlorophenylhydrazine hydrochloride | 8.52 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 2-methylcyclohexane-1,3-dione | 5.0 g | CC1C(CCCC1=O)=O | C7H10O2
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one | 4.63 g | ClC=1C=C2C(=C3N(C2=CC1)C(CCC3)=O)C | C13H12ClNO
